US06964965B2
Following the general procedure of Preparation 1 Step 2 and making non-critical variations but substituting 3-bromo-5,6,7,8-tetrahydronaphthalen-2-ol with 1-bromo-5,6,7,8-tetrahydronaphthalen-2-ol (900 mg, 3.96 mmol) and substituting iodomethane with iodoethane gave 980 mg of a crude oil. The crude was purified by Biotage MPLC (120 g column, 3% ethyl acetate in heptane) to give 657 mg (66%) of 1-bromo-5,6,7,8-tetrahydronaphthalen-2-yl ethyl ether as a white solid.

reactant | 1-bromo-5,6,7,8-tetrahydronaphthalen-2-ol | 3.96 mmol, 900 mg | BrC1=C(C=CC=2CCCCC12)O | C10H11BrO
reactant | iodoethane | ICC | C2H5I
product | 1-bromo-5,6,7,8-tetrahydronaphthalen-2-yl ethyl ether | 657 mg, 66% | C(C)OC1=C(C=2CCCCC2C=C1)Br | C12H15BrO
